### PR TITLE
[Merged by Bors] - chore: categorise porting notes related to `ext`

### PR DESCRIPTION
**Pull request by joneugster**
Fix some porting notes about `ext` and classifies the remaining ones about `ext`

---

The remaining porting notes mentioning `ext` are categorised by the issues

- #11182
- #5229
-  #11041

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Free.lean [hunk 1]
```diff
@@ -479,7 +479,6 @@ variable {α : Type u}
 @[to_additive]
 instance : Semigroup (FreeSemigroup α) where
   mul L1 L2 := ⟨L1.1, L1.2 ++ L2.1 :: L2.2⟩
-  -- Porting note: replaced ext by FreeSemigroup.ext
   mul_assoc _L1 _L2 _L3 := FreeSemigroup.ext _ _ rfl <| List.append_assoc _ _ _
```
Comment (joneugster) [inline Mathlib/Algebra/Free.lean:482]: This seems fine: `FreeSemigroup.ext` seems to be protected, and that seems as desired.

File: Mathlib/LinearAlgebra/LinearPMap.lean [hunk 2]
```diff
@@ -948,8 +948,7 @@ theorem le_graph_iff {f g : E →ₗ.[R] F} : f.graph ≤ g.graph ↔ f ≤ g :=
 #align linear_pmap.le_graph_iff LinearPMap.le_graph_iff
 
 theorem eq_of_eq_graph {f g : E →ₗ.[R] F} (h : f.graph = g.graph) : f = g := by
-  -- Porting note: `ext` → `refine ext ..`
-  refine ext (Submodule.ext fun x => ?_) (fun x y h' => ?_)
+  ext _ _ h'
```
Comment (joneugster) [inline Mathlib/LinearAlgebra/LinearPMap.lean:951]: Fixed

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean [hunk 3]
```diff
@@ -72,14 +72,14 @@ def whiskerRight {M₁ M₂ : ModuleCat R} (f : M₁ ⟶ M₂) (N : ModuleCat R)
   f.rTensor N
 
 theorem tensor_id (M N : ModuleCat R) : tensorHom (𝟙 M) (𝟙 N) = 𝟙 (ModuleCat.of R (M ⊗ N)) := by
-  -- Porting note: even with high priority ext fails to find this
+  -- Porting note (#11041): even with high priority ext fails to find this
```
Comment (pitmonticone) [inline Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean:75]:
```suggestion
  -- Porting note (#11041): even with high priority `ext` fails to find this.
```

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean [hunk 4]
```diff
@@ -72,14 +72,14 @@ def whiskerRight {M₁ M₂ : ModuleCat R} (f : M₁ ⟶ M₂) (N : ModuleCat R)
...
   apply TensorProduct.ext
   rfl
 #align Module.monoidal_category.tensor_id ModuleCat.MonoidalCategory.tensor_id
 
 theorem tensor_comp {X₁ Y₁ Z₁ X₂ Y₂ Z₂ : ModuleCat R} (f₁ : X₁ ⟶ Y₁) (f₂ : X₂ ⟶ Y₂) (g₁ : Y₁ ⟶ Z₁)
     (g₂ : Y₂ ⟶ Z₂) : tensorHom (f₁ ≫ g₁) (f₂ ≫ g₂) = tensorHom f₁ f₂ ≫ tensorHom g₁ g₂ := by
-  -- Porting note: even with high priority ext fails to find this
+  -- Porting note (#11041): even with high priority ext fails to find this
```
Comment (pitmonticone) [inline Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean:82]:
```suggestion
  -- Porting note (#11041): even with high priority `ext` fails to find this.
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 5]
```diff
@@ -216,7 +216,7 @@ theorem toAddMonoid_of (i) (x : β i) : toAddMonoid φ (of β i x) = φ i x :=
 
 theorem toAddMonoid.unique (f : ⨁ i, β i) : ψ f = toAddMonoid (fun i => ψ.comp (of β i)) f := by
   congr
-  -- Porting note: ext applies addHom_ext' here, which isn't what we want.
+  -- Porting note (#11041): ext applies addHom_ext' here, which isn't what we want.
```
Comment (pitmonticone) [inline Mathlib/Algebra/DirectSum/Basic.lean:219]:
```suggestion
  -- Porting note (#11041): `ext` applies addHom_ext' here, which isn't what we want.
```

File: Mathlib/Algebra/Free.lean (hunk 1 above)
Comment (pitmonticone) [reply Mathlib/Algebra/Free.lean:482]: Yes, I believe you're right. 

What do you think, @joelriou?

File: Mathlib/CategoryTheory/Limits/Presheaf.lean [hunk 6]
```diff
@@ -144,11 +144,10 @@ theorem extendAlongYoneda_obj (P : Cᵒᵖ ⥤ Type u₁) :
   rfl
 #align category_theory.colimit_adj.extend_along_yoneda_obj CategoryTheory.ColimitAdj.extendAlongYoneda_obj
 
--- Porting note: adding this lemma because lean 4 ext no longer applies all ext lemmas when
+-- Porting note (#5229): adding this lemma because lean 4 ext no longer applies all ext lemmas when
```
Comment (pitmonticone) [inline Mathlib/CategoryTheory/Limits/Presheaf.lean:147]:
```suggestion
-- Porting note (#5229): adding this lemma because lean 4 `ext` no longer applies all `ext` lemmas when
```

File: Mathlib/CategoryTheory/Limits/Presheaf.lean [hunk 7]
```diff
@@ -144,11 +144,10 @@ theorem extendAlongYoneda_obj (P : Cᵒᵖ ⥤ Type u₁) :
...
 -- stuck (and hence can see through definitional equalities). The previous lemma shows that
 -- `(extendAlongYoneda A).obj P` is definitionally a colimit, and the ext lemma is just
```
Comment (pitmonticone) [inline Mathlib/CategoryTheory/Limits/Presheaf.lean:149]:
```suggestion
-- `(extendAlongYoneda A).obj P` is definitionally a colimit, and the `ext` lemma is just
```

File: Mathlib/CategoryTheory/Monad/Algebra.lean [hunk 8]
```diff
@@ -99,7 +99,7 @@ instance : CategoryStruct (Algebra T) where
   id := Hom.id
   comp := @Hom.comp _ _ _
 
--- Porting note: Adding this ext lemma to help automation below.
+-- Porting note (#11041): Adding this ext lemma to help automation below.
```
Comment (pitmonticone) [inline Mathlib/CategoryTheory/Monad/Algebra.lean:102]:
```suggestion
-- Porting note (#11041): Adding this `ext` lemma to help automation below.
```

File: Mathlib/CategoryTheory/Monad/Algebra.lean [hunk 9]
```diff
@@ -371,7 +371,7 @@ instance : CategoryStruct (Coalgebra G) where
   id := Hom.id
   comp := @Hom.comp _ _ _
 
--- Porting note: Adding ext lemma to help automation below.
+-- Porting note (#11041): Adding ext lemma to help automation below.
```
Comment (pitmonticone) [inline Mathlib/CategoryTheory/Monad/Algebra.lean:374]:
```suggestion
-- Porting note (#11041): Adding `ext` lemma to help automation below.
```

File: Mathlib/CategoryTheory/Sites/SheafOfTypes.lean [hunk 10]
```diff
@@ -242,7 +242,7 @@ instance : Category (SheafOfTypes J) where
   comp_id _ := Hom.ext _ _ <| comp_id _
   assoc _ _ _ := Hom.ext _ _ <| assoc _ _ _
 
--- Porting note: we need to restate the ext lemma in terms of the categorical morphism
+-- Porting note (#11041): we need to restate the ext lemma in terms of the categorical morphism
```
Comment (pitmonticone) [inline Mathlib/CategoryTheory/Sites/SheafOfTypes.lean:245]:
```suggestion
-- Porting note (#11041): we need to restate the `ext` lemma in terms of the categorical morphism.
```

File: Mathlib/Geometry/RingedSpace/PresheafedSpace.lean [hunk 11]
```diff
@@ -104,7 +104,7 @@ structure Hom (X Y : PresheafedSpace C) where
 set_option linter.uppercaseLean3 false in
 #align algebraic_geometry.PresheafedSpace.hom AlgebraicGeometry.PresheafedSpace.Hom
 
--- Porting note: eventually, the ext lemma shall be applied to terms in `X ⟶ Y`
+-- Porting note (#11041): eventually, the ext lemma shall be applied to terms in `X ⟶ Y`
```
Comment (pitmonticone) [inline Mathlib/Geometry/RingedSpace/PresheafedSpace.lean:107]:
```suggestion
-- Porting note (#11041): eventually, the `ext` lemma shall be applied to terms in `X ⟶ Y`
```

File: Mathlib/Geometry/RingedSpace/PresheafedSpace.lean [hunk 12]
```diff
@@ -185,8 +185,7 @@ set_option linter.uppercaseLean3 false in
 
 variable {C}
 
--- Porting note: adding an ext lemma.
--- See https://github.com/leanprover-community/mathlib4/issues/5229
+-- Porting note (#5229): adding an ext lemma.
```
Comment (pitmonticone) [inline Mathlib/Geometry/RingedSpace/PresheafedSpace.lean:188]:
```suggestion
-- Porting note (#5229): adding an `ext` lemma.
```

File: Mathlib/Geometry/RingedSpace/SheafedSpace.lean [hunk 13]
```diff
@@ -93,8 +93,7 @@ instance : Category (SheafedSpace C) :=
   show Category (InducedCategory (PresheafedSpace C) SheafedSpace.toPresheafedSpace) by
     infer_instance
 
--- Porting note: adding an ext lemma.
--- See https://github.com/leanprover-community/mathlib4/issues/5229
+-- Porting note (#5229): adding an ext lemma.
```
Comment (pitmonticone) [inline Mathlib/Geometry/RingedSpace/SheafedSpace.lean:96]:
```suggestion
-- Porting note (#5229): adding an `ext` lemma.
```

File: Mathlib/LinearAlgebra/LinearPMap.lean (hunk 2 above)
Comment (pitmonticone) [reply Mathlib/LinearAlgebra/LinearPMap.lean:951]: Yes, I believe 

```lean
ext
· exact mem_domain_iff_of_eq_graph h
· apply (le_of_le_graph h.le).2
  assumption
```

is better. What do you think, @jcommelin?

File: Mathlib/LinearAlgebra/Matrix/Hermitian.lean [hunk 14]
```diff
@@ -52,7 +52,7 @@ protected theorem IsHermitian.isSelfAdjoint {A : Matrix n n α} (h : A.IsHermiti
     IsSelfAdjoint A := h
 #align matrix.is_hermitian.is_self_adjoint Matrix.IsHermitian.isSelfAdjoint
 
--- @[ext] -- Porting note: incorrect ext, not a structure or a lemma proving x = y
+-- @[ext] -- Porting note (#11041): incorrect ext, not a structure or a lemma proving x = y
```
Comment (pitmonticone) [inline Mathlib/LinearAlgebra/Matrix/Hermitian.lean:55]:
```suggestion
-- @[ext] -- Porting note (#11041): incorrect `ext`, not a structure or a lemma proving `x = y`.
```

File: Mathlib/RepresentationTheory/Rep.lean [hunk 15]
```diff
@@ -196,7 +196,7 @@ theorem linearization_of (X : Action (Type u) (MonCat.of G)) (g : G) (x : X.V) :
 set_option linter.uppercaseLean3 false in
 #align Rep.linearization_of Rep.linearization_of
 
--- Porting note: helps fixing `linearizationTrivialIso` since change in behaviour of ext
+-- Porting note (#11041): helps fixing `linearizationTrivialIso` since change in behaviour of ext
```
Comment (pitmonticone) [inline Mathlib/RepresentationTheory/Rep.lean:199]:
```suggestion
-- Porting note (#11041): helps fixing `linearizationTrivialIso` since change in behaviour of `ext`.
```

File: Mathlib/Topology/Category/Compactum.lean [hunk 16]
```diff
@@ -449,7 +449,7 @@ instance faithful : compactumToCompHaus.Faithful where
   -- Porting note: this used to be obviously (though it consumed a bit of memory)
   map_injective := by
     intro _ _ _ _ h
-    -- Porting note: ext gets confused by coercion using forget
+    -- Porting note (#11041): ext gets confused by coercion using forget
```
Comment (pitmonticone) [inline Mathlib/Topology/Category/Compactum.lean:452]:
```suggestion
    -- Porting note (#11041): `ext` gets confused by coercion using forget.
```

File: Mathlib/Topology/Category/TopCat/Limits/Products.lean [hunk 17]
```diff
@@ -218,7 +218,7 @@ theorem prodIsoProd_hom_snd (X Y : TopCat.{u}) :
 theorem prodIsoProd_hom_apply {X Y : TopCat.{u}} (x : ↑ (X ⨯ Y)) :
     (prodIsoProd X Y).hom x = ((Limits.prod.fst : X ⨯ Y ⟶ _) x,
     (Limits.prod.snd : X ⨯ Y ⟶ _) x) := by
-  -- Porting note: ext didn't pick this up
+  -- Porting note (#11041): ext didn't pick this up
```
Comment (pitmonticone) [inline Mathlib/Topology/Category/TopCat/Limits/Products.lean:221]:
```suggestion
  -- Porting note (#11041): `ext` didn't pick this up.
```

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 18]
```diff
@@ -84,7 +84,7 @@ def pullbackConeIsLimit (f : X ⟶ Z) (g : Y ⟶ Z) : IsLimit (pullbackCone f g)
         -- This used to be `rw`, but we need `erw` after leanprover/lean4#2644
         erw [comp_apply, ContinuousMap.coe_mk]
       · intro m h₁ h₂
-        -- Porting note: used to be ext x
+        -- Porting note (#11041): used to be ext x
```
Comment (pitmonticone) [inline Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:87]:
```suggestion
        -- Porting note (#11041): used to be `ext x`.
```

**Review by pitmonticone — COMMENTED** [review]
Globally LGTM. I have resolved the merge conflict and suggested a few minor changes that can be directly committed from browser pretty quickly. 

@jcommelin

File: Mathlib/LinearAlgebra/LinearPMap.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/LinearPMap.lean:951]: Yeah, looks good to me.

Comment (joneugster) [reply Mathlib/LinearAlgebra/LinearPMap.lean:951]: changed

**Comment by jcommelin** [comment]
@joneugster @pitmonticone if you are both happy, I think this will be ready for merging.

**Comment by pitmonticone** [comment]
Yes, happy with that.

File: Mathlib/Algebra/Free.lean (hunk 1 above)
Comment (joneugster) [reply Mathlib/Algebra/Free.lean:482]: I just double-checked this with mathlib3: it was indeed `free_semigroup.ext` that's used here in mathlib 3 so there is really nothing happening here.

**Comment by joneugster** [comment]
me too!

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
